US04152441
To a solution of 11.2 g. (0.1 mol) of 1-(methoxymethyl)imidazole and 13.9 g. (0.12 mol) of N,N,N',N'-tetramethylethylenediamine in 150 ml. of anhydrous tetrahydrofuran 51 ml. (0.12 mol) of a butyllithium solution (20% in n-hexane) was added drop-wise over the course of one hour at -60° C., and under a nitrogen atmosphere. After the addition was completed, stirring was continued for another two hours. The cooling means was then removed and 25.1 g. (0.1 mol) of 4,4'-difluorobenzophenone in 150 ml. of anhydrous tetrahydrofuran were added drop-wise. The reaction mixture was stirred for 6 hours at room temperature and it was then decomposed with 15 ml. of water. The precipitated lithium hydroxide was filtered off and the filtrate was concentrated by distilling off the solvents. 2N Hydrochloric acid was added to the residue, after which the mixture was extracted with diethyl ether. The aqueous phase was made alkaline with 2N sodium hydroxide solution. The precipitate formed was filtered off, washed with water and twice crystallised from a mixture of isopropyl alcohol and petroleum ether (boiling range 40°-60° C.). α,α-Bis(p-fluorophenyl)-1-(methoxymethyl)imidazole-2-methanol was obtained. Melting point 133° C.

reactant | 1-(methoxymethyl)imidazole | 0.1 mol | COCN1C=NC=C1 | C5H8N2O
reactant | N,N,N',N'-tetramethylethylenediamine | 0.12 mol | CN(CCN(C)C)C | C6H16N2
reactant | butyllithium | 0.12 mol | C(CCC)[Li]
reactant | 4,4'-difluorobenzophenone | 0.1 mol | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 51 ml | O1CCCC1 | C4H8O
product | α,α-Bis(p-fluorophenyl)-1-(methoxymethyl)imidazole-2-methanol | FC1=CC=C(C=C1)C(O)(C=1N(C=CN1)COC)C1=CC=C(C=C1)F | C18H16F2N2O2
